### PR TITLE
[Merged by Bors] - feat(CategoryTheory): regular categories have strong-epi-mono factorisations

### PR DESCRIPTION
**Pull request by FernandoChu**
This PR defines regular categories and shows that these have strong-epi-mono factorisations. A follow up PR will prove frobenius reciprocity.

- [x] depends on: https://github.com/leanprover-community/mathlib4/pull/31145

---

This is a prerequisite of the [MTT project](https://github.com/kyoDralliam/model-theory-topos), which aims to use the internal language of toposes to reason about e.g. sheaves.

### CODE REVIEW

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,161 @@
...
+
+## Main results
+
+* We show that every regular category has strong epi-mono factorisations, following Theorem 1.11
+  in [Gran2021].
+
+## Future work
+* Show Frobenius reciprocity
+* Show that every topos is regular
+* Define the regular topology on regular categories
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean]: We already have the [regular topology](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Sites/Coherent/Basic.html#CategoryTheory.regularTopology) on preregular categories. It shouldn't be too hard to prove that your `Regular` imples `Preregular`

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,161 @@
...
+A regular category is category with finite limits such that each kernel pair has a coequalizer
+and such that regular epimorphisms are stable under pullback.
+
+These categories provide a good ground to develop the calculus of relations, as well as being the
+semantics for regular logic.
+
+## Main results
+
+* We show that every regular category has strong epi-mono factorisations, following Theorem 1.11
+  in [Gran2021].
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean:24]: Does this fail for `Preregular` categories? According to the [nlab](https://ncatlab.org/nlab/show/strict+epimorphism), every strict epimorphism (what mathlib calls `EffectiveEpi`) is strong. Certainly `Regular` is too strict of an assumption, I'm pretty sure that your proofs  can be directly generalized to `Preregular` categories with kernel pairs

File: docs/references.bib [hunk 3]
```diff
@@ -416,25 +416,25 @@ @Book{            BerthelotOgus-1978
...
+  author        = {Beylin, Ilya and Dybjer, Peter},
+  editor        = {Berardi, Stefano and Coppo, Mario},
+  title         = {Extracting a proof of coherence for monoidal categories
+                  from a proof of normalization for monoids},
+  booktitle     = {Types for Proofs and Programs},
+  year          = {1996},
+  publisher     = {Springer Berlin Heidelberg},
+  address       = {Berlin, Heidelberg},
+  pages         = {47--61},
+  abstract      = {This paper studies the problem of coherence in category
```
Comment (dagurtomas) [inline docs/references.bib]: You should revert all changes to the bibliography that are irrelevant to this PR

Comment (FernandoChu) [reply docs/references.bib]: These changes were obtained by following the [manual](https://leanprover-community.github.io/contribute/doc.html#citing-other-works) and normalizing the .bib file. Should I still revert this?

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean (hunk 2 above)
Comment (FernandoChu) [reply Mathlib/CategoryTheory/RegularCategory/Basic.lean:24]: As far as I can tell, the proof I followed does not apply to preregular categories. That the "pullback" of the effective epi is actually a pullback is needed for some pullback-pasting arguments.

Also, it is [a theorem](https://mathoverflow.net/questions/252815/is-a-category-regular-iff-extremal-epis-and-monomorphisms-are-a-strong-factoriza/252842#252842) that being a regular category is equivalent to having strong-epi-mono factorizations, with the strong-epis being stable under pullback. This also suggests to me that it is somewhat unlikely that an analogous theorem holds for preregular categories.

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean (hunk 1 above)
Comment (FernandoChu) [reply Mathlib/CategoryTheory/RegularCategory/Basic.lean]: Thanks for pointing this out! I've added a proof of this now.

File: docs/references.bib (hunk 3 above)
Comment (dagurtomas) [reply docs/references.bib]: You should revert the changes in this PR, but if you want you can open a separate PR with these changes. That should get merged quickly while here it's just cluttering the diff

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean (hunk 2 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/RegularCategory/Basic.lean:24]: I see. I'm sure there is a slight generalization that can be made here, but it is probably not of mathematical interest. The situation around `EffectiveEpi` and `RegularEpi` could be improved a bit, e.g. `RegularEpi => StrongEpi` should be proved via `EffectiveEpi => StrongEpi` and not the way it is now. But that has nothing to do with this PR

File: docs/references.bib (hunk 3 above)
Comment (FernandoChu) [reply docs/references.bib]: Done!

**Comment by FernandoChu** [comment]
Thanks for the review! I've implemented the suggested changes.

-awaiting-author

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 4]
```diff
@@ -117,6 +117,10 @@ def regularMonoOfIsRegularMono (f : X ⟶ Y) [h : IsRegularMono f] :
     RegularMono f :=
   h.some
 
+instance (priority := low) mono_of_isRegularMono (f : X ⟶ Y) [h : IsRegularMono f] : Mono f :=
+  have := regularMonoOfIsRegularMono f
+  RegularMono.mono f
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
  inferInstance
```

File: Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean [hunk 5]
```diff
@@ -291,6 +295,10 @@ def regularEpiOfIsRegularEpi (f : X ⟶ Y) [h : IsRegularEpi f] :
     RegularEpi f :=
   h.some
 
+instance (priority := low) epi_of_isRegularEpi (f : X ⟶ Y) [h : IsRegularEpi f] : Epi f :=
+  have := regularEpiOfIsRegularEpi f
+  RegularEpi.epi f
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Limits/Shapes/RegularMono.lean]:
```suggestion
  inferInstance
```

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,173 @@
...
+instance e_isRegularEpi : IsRegularEpi (e f) := by
+  dsimp [e]; infer_instance
+
+/--
+The `mono` component of the chosen mono factorisation associated to any regular category.
+It is induced by the coequalizer of the kernel pair of an arrow `f`.
+See `monoFactorisation` for the actual mono factorisation.
+-/
+def m : (I f) ⟶ Y :=
+  coequalizer.desc f (IsKernelPair.of_hasPullback f).w
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean]:
```suggestion
  coequalizer.desc f pullback.condition
```

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,173 @@
...
+lemma fac : (e f) ≫ (m f) = f :=
+  coequalizer.π_desc f _
+
+instance m_mono : Mono (m f) := by
+  apply (IsKernelPair.of_hasPullback (m f)).mono_of_eq_fst_snd
+  let k₁ := pullback.fst (m f) (m f)
+  let k₂ := pullback.snd (m f) (m f)
+  let d : _ ⟶ (pullback (m f) (m f)) :=
+    pullback.lift (pullback.fst f f ≫ e f) (pullback.snd f f ≫ e f)
+      (by simp; rw [pullback.condition])
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean]:
```suggestion
      (by simp [pullback.condition])
```

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+  have : IsRegularEpi (pullback.snd (e f) k₁) := by
+    apply Regular.regularEpiIsStableUnderBaseChange.of_isPullback sq₁ (e_isRegularEpi f)
+  have : IsRegularEpi (pullback.fst k₂ (e f)) := by
+    apply Regular.regularEpiIsStableUnderBaseChange.of_isPullback sq₂.flip (e_isRegularEpi f)
+  have : IsRegularEpi g₁ := by
+    apply Regular.regularEpiIsStableUnderBaseChange.of_isPullback sq₃.flip this
+  rw [← cancel_epi (g₁ ≫ pullback.snd (e f) k₁)]
+  convert coequalizer.condition (pullback.fst f f) (pullback.snd f f) using 1
+  · rw [Category.assoc, sq₁.w.symm, pullback.lift_fst_assoc, e]
+  · rw [sq₃.w, Category.assoc, sq₂.w, pullback.lift_snd_assoc, e]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean]: Could you add some comments throughout this proof or in a docstring explaining what you are doing? Preferably with some diagrams.

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+def strongEpiMonoFactorisation : StrongEpiMonoFactorisation f where
+  __ := monoFactorisation f
+  e_strong_epi := by
+    dsimp [monoFactorisation]
+    apply strongEpi_of_regularEpi
+
+instance hasStrongEpiMonoFactorisations : HasStrongEpiMonoFactorisations C where
+  has_fac f := ⟨strongEpiMonoFactorisation f⟩
+
+/-- In a regular category, every extremal epimorphism is an epimorphism. -/
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean]:
```suggestion
/-- In a regular category, every extremal epimorphism is a regular epimorphism. -/
```

**Review by dagurtomas — COMMENTED** [review]
Note also that I am proposing a change to the `RegularEpi/RegularMono` API in [#mathlib4 > &#96;RegularEpi&#96; vs &#96;IsRegularEpi&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60RegularEpi.60.20vs.20.60IsRegularEpi.60/with/560444180). What are your opinions on this?

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean (hunk 7 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/RegularCategory/Basic.lean]: This was a nonterminal simp in your code; if my fix hadn't worked you should have squeezed that simp (i.e. replaced it with the output of `simp?`).

File: Mathlib/CategoryTheory/RegularCategory/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,162 @@
...
+  __ := monoFactorisation f
+
+instance hasStrongEpiMonoFactorisations : HasStrongEpiMonoFactorisations C where
+  has_fac f := ⟨strongEpiMonoFactorisation f⟩
+
+/-- In a regular category, every extremal epimorphism is a regular epimorphism. -/
+noncomputable def regularEpiOfExtremalEpi [h : ExtremalEpi f] : RegularEpi f :=
+  have := h.isIso (monoFactorisation f).e (monoFactorisation f).m (by simp)
+  RegularEpi.ofArrowIso (Arrow.isoMk (f := .mk (monoFactorisation f).e) (Iso.refl _)
+    (asIso (monoFactorisation f).m)) (IsRegularEpi.getStruct _)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/RegularCategory/Basic.lean]: Actually, maybe this is a bit better?

```suggestion
/--
In a regular category, every morphism `f` factors as `e f ≫ m f`, with `e f` a strong epimorphism
and `m f` a monomorphism.
-/
noncomputable def strongEpiMonoFactorisation : StrongEpiMonoFactorisation f where
  I := coequalizer (pullback.fst f f) (pullback.snd f f)
  m := coequalizer.desc f pullback.condition
  e := coequalizer.π (pullback.fst f f) (pullback.snd f f)
  fac := coequalizer.π_desc f _

instance : IsRegularEpi (strongEpiMonoFactorisation f).e := by
  dsimp [strongEpiMonoFactorisation]
  infer_instance

/--
In a regular category, every morphism `f` factors as `e f ≫ m f`, with `e f` a strong epimorphism
and `m f` a monomorphism.
-/
instance hasStrongEpiMonoFactorisations : HasStrongEpiMonoFactorisations C where
  has_fac f := ⟨strongEpiMonoFactorisation f⟩

/-- In a regular category, every extremal epimorphism is a regular epimorphism. -/
noncomputable def regularEpiOfExtremalEpi [h : ExtremalEpi f] : RegularEpi f :=
  have := h.isIso (strongEpiMonoFactorisation f).e (strongEpiMonoFactorisation f).m (by simp)
  RegularEpi.ofArrowIso (Arrow.isoMk (f := .mk (strongEpiMonoFactorisation f).e) (Iso.refl _)
    (asIso (strongEpiMonoFactorisation f).m)) (IsRegularEpi.getStruct _)
```

So that `MonoFactorisation` does not have "accidental specs" (having the second morphism being a strong epi) over an arbitrary `MonoFactorisation`?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
